US07683185B2
6-(4-Dimethylamino-phenylsulfanyl)-4-methylhepta-2,4-dienoic acid hydroxyamide (25c).
To a solution of 6-(4-dimethylaminophenylsulfanyl)-4-methylhepta-2,4-dienoic acid ethyl ester (0.576 g, 1.80 mmol) in dry THF (10 mL) was added at 0° C. an aqueous solution of hydroxylamine (50%, 1.1 mL, 16.6 mmol). To this mixture was added a solution of potassium hydroxide in methanol (1M, 2.9 mL, 2.9 mmol) over a period of 40 minutes at 0° C. The mixture was stirred at 20° C. for 16 hours, and water (10 mL) was then added. The solution was acidified to pH 5 by addition of concentrated hydrochloric acid (10 M, CAUTION), then extracted with ethyl acetate (50 mL). The organic layer was washed with brine (25 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The yellow oil was dissolved in a mixture of 1:1 diethyl ether:methanol (20 mL) and 20 drops of concentrated hydrochloric (10 M) were added. The crude mixture was evaporated to dryness to give an oil that was triturated with a mixture of diethyl ether and ethanol to give the title compound (0.34 g, 52%) as an off-white solid, mp 177-178° C. (decomp).

reactant | 6-(4-dimethylaminophenylsulfanyl)-4-methylhepta-2,4-dienoic acid ethyl ester | 1.80 mmol, 0.576 g | C(C)OC(C=CC(=CC(C)SC1=CC=C(C=C1)N(C)C)C)=O | C18H25NO2S
reactant | hydroxylamine | 16.6 mmol, 1.1 mL | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 2.9 mmol, 1M, 2.9 mL | CO | CH4O
reactant | hydrochloric acid | 10 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 6-(4-Dimethylamino-phenylsulfanyl)-4-methylhepta-2,4-dienoic acid hydroxyamide | 0.34 g, 52% | ONC(C=CC(=CC(C)SC1=CC=C(C=C1)N(C)C)C)=O | C16H22N2O2S
